US07968554B2
3-Methoxymethoxy-4-methyl-benzoic acid ethyl ester (4.5 g, 20 mmol) was dissolved in a mixture of ethanol (50 mL), water (20 mL) and 1 N aqueous sodium hydroxide solution (30 mL) and stirred at room temperature for 18 hours. The mixture was concentrated under reduced pressure to remove most of the ethanol. The resulting aqueous solution was acidified by adding acetic acid (2.5 g, 41.6 mmol). White precipitate was formed. After standing for another 30 minutes, the precipitate was collected by filtration, washed with water and dried to give crude 3-methoxymethoxy-4-methyl-benzoic acid as a white powder. (Yield 3.82 g, 97.0%).

reactant | 3-Methoxymethoxy-4-methyl-benzoic acid ethyl ester | 20 mmol, 4.5 g | C(C)OC(C1=CC(=C(C=C1)C)OCOC)=O | C12H16O4
reactant | acetic acid | 41.6 mmol, 2.5 g | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
solvent | sodium hydroxide | 1 N, 30 mL | [OH-].[Na+]
product | 3-methoxymethoxy-4-methyl-benzoic acid | COCOC=1C=C(C(=O)O)C=CC1C | C10H12O4
